US09227957B2
Preparation of N-Methyl-5-(trifluoromethyl)thiophen-2-amine
To tert-butyl 5-(trifluoromethyl)thiophen-2-ylcarbamate (0.40 g, 1.5 mmol) in DMF (9 mL) at 0° C. was added NaH (72 mg, 1.8 mmol, 60% dispersion in mineral oil) in one portion. After 40 minutes MeI (0.20 mL, 1.8 mmol) was added via syringe. After stirring for 30 minutes at 0° C., TLC of a quenched aliquot showed the reaction was complete. The reaction was quenched by pouring into a biphasic mixture of 1N HCl and EtOAc. The layers were separated, and the organic layer was washed 3× with H2O, 1× with brine, dried over MgSO4, filtered, and concentrated under reduced pressure to afford a yellow oil. The crude oil was added to CH2Cl2 (2 mL) and trifluoroacetic acid (2 mL). After this mixture had been stirred at ambient temperature for 80 minutes, TLC showed the reaction was complete. The solvents were removed under reduced pressure and the residue was taken up in CH2Cl2 and was washed with NaHCO3 aq sat. This aqueous wash was back extracted 1× with CH2Cl2, then the combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure. N-Methyl-5-(trifluoromethyl)thiophen-2-amine was used directly in the next step.

reactant | tert-butyl 5-(trifluoromethyl)thiophen-2-ylcarbamate | 1.5 mmol, 0.40 g | FC(C1=CC=C(S1)NC(OC(C)(C)C)=O)(F)F | C10H12F3NO2S
reactant | NaH | 1.8 mmol, 72 mg | [H-].[Na+]
reactant | MeI | 1.8 mmol, 0.20 mL | CI | CH3I
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-Methyl-5-(trifluoromethyl)thiophen-2-amine | CNC=1SC(=CC1)C(F)(F)F | C6H6F3NS
